US03935209
A mixture of 3.2 g. 2-amino-1-nitro-4-(1,2,4-triazol-3-ylthio)benzene, 3.2 g. of iron powder, 1.6 g. ferrous sulfate in 240 ml. methanol and 60 ml. water is refluxed for 6 hours (with one additional portion of iron being added after 3 hours. The mixture is cooled, filtered and the filtrate stripped under vacuum to yield 1,2-diamino-4-(1,2,4-triazol-3-ylthio)benzene.

reactant | 2-amino-1-nitro-4-(1,2,4-triazol-3-ylthio)benzene | NC1=C(C=CC(=C1)SC1=NNC=N1)[N+](=O)[O-] | C8H7N5O2S
reactant | methanol | CO | CH4O
catalyst | iron | [Fe] | Fe
solvent | water | O | H2O
product | 1,2-diamino-4-(1,2,4-triazol-3-ylthio)benzene | NC1=C(C=C(C=C1)SC1=NNC=N1)N | C8H9N5S
